US06566535B1
Ethyl 7-(4-propoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxlate (1.0 g, 2.497 mmol) was dissolved in 15 ml of a mixed solution of tetrahydrofuran/ethylene glycol =2/1. Crystals were formed by adding 8.5 ml of water. Potassium carbonate (690 mg, 4.994 mmol) was added and the mixture was heated under reflux for 3.25 hours. Under reflux, 3.5 ml of a 3N hydrochloric acid was dropped to form crystals. After cooling, the mixture was stirred at 20-30° C. for 45minutes and for 1 hour while cooling in ice. After filtration, the residue was washed with 10 ml of a mixed solution of tetrahydrofuran/methanol/water=1/1/3. After vacuum drying (40° C.), 858 mg (Yield 92%) of 7-(4-propoxyphenyl)-1, 1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid was obtained as pale yellowish white crystals.

reactant | Ethyl 7-(4-propoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxlate | 2.497 mmol, 1.0 g | C(CC)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OCC)C1 | C22H24O5S
reactant | water | 8.5 ml | O | H2O
reactant | Potassium carbonate | 4.994 mmol, 690 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran ethylene glycol | O1CCCC1.C(CO)O
product | 7-(4-propoxyphenyl)-1, 1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 858 mg, Yield 92% | C(CC)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)O)C1 | C20H20O5S
